US05780498
A stirred solution of N-BOC-N-methyl-(D)-phenylalanine (3 g, 10.5 mmol) in methylenchoride (25 ml) is treated at 0° C. with slight excess of diazomethane in ether (25 ml). The reaction mixture is stirred at 0° C. and concentrated in vacuo to give N-BOC-N-methyl-(D)-phenylalanine methyl ester as a colorless oil. The above crude material is dissolved in a mixture of trifluoroacetic acid (8 ml) and ethanedithiol (2 ml) and stirred under nitrogen at r.t. for 1 hour. A 4M solution of hydrogen chloride in dioxane (3.6 ml) is added. The hydrochloride is precipitated by addition of ether (400 ml) and hexane (300 ml), filtered and washed with ether to give N-methyl-(D)-phenylalanine methyl ester hydrochloride (2.4 g) as a white powder. A solution of the above N-methyl-(D)-phenylalanine methyl ester hydrochloride (2.4 g, 10 mmol) and, 5-dimethylbenzoic acid (1.8 g, 11 mmol) in DMF (15 ml) at 0° C. is treated with 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide (2.2 ml, 11 mmol). The reaction mixture is slowly warmed to r.t. and stirring continued overnight. The homogeneous mixture is diluted with ethyl acetate (500 ml) and washed with three portions of water (200 ml). The organic layer is dried over magnesium sulfate, filtered and concentrated in vacuo. The crude material is chromatographed on silica with ethyl acetate/hexane 1:2 to give N-(3,5-dimethylbenzoyl)-N-methyl-(D)-phenylalanine methyl ester as a colorless oil. [a]D =+111° (c=0.94, ethanol).

reactant | N-methyl-(D)-phenylalanine methyl ester hydrochloride | 10 mmol, 2.4 g | Cl.COC([C@H](NC)CC1=CC=CC=C1)=O
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide | 11 mmol, 2.2 ml | CN(CCCN=C=NCC)C | C8H17N3
reactant | DMF | 15 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 500 ml | C(C)(=O)OCC | C4H8O2
product | N-(3,5-dimethylbenzoyl)-N-methyl-(D)-phenylalanine methyl ester | COC([C@H](N(C)C(C1=CC(=CC(=C1)C)C)=O)CC1=CC=CC=C1)=O | C20H23NO3
